US05962457
A mixture of 3-acetamidothiophene-4-carboxylic acid 2-chlorophenylamide (0.36 g, 1.23 mmol), toluene (15 mL), and phosphorous oxychloride (0.35 mL, 3.7 mmol) was refluxed 8 hours with azeotropic removal of water (Dean-Stark apparatus). The reaction was cooled and partitioned between ethyl acetate and water. The phases were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and brine, dried over sodium sulfate, and concentrated. The residue was flash chromatographed on silica gel (20×85 mm) eluting with 10% ethyl acetate/hexane. After an unweighed forerun, 2-methyl-3-(2-chloro-phenyl)-3H-thieno[3,4-d]pyrimidin-4-one was isolated as an off white solid.

reactant | 3-acetamidothiophene-4-carboxylic acid 2-chlorophenylamide | 1.23 mmol, 0.36 g | ClC1=C(C=CC=C1)NC(=O)C=1C(=CSC1)NC(C)=O | C13H11ClN2O2S
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | phosphorous oxychloride | 3.7 mmol, 0.35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 2-methyl-3-(2-chloro-phenyl)-3H-thieno[3,4-d]pyrimidin-4-one | CC=1N(C(C=2C(N1)=CSC2)=O)C2=C(C=CC=C2)Cl | C13H9ClN2OS
